US07332510B2
2-Chloro-4-[1-(2,4-difluoro-phenyl)-2-methyl-1H-imidazol-4-ylethynyl]-pyridine
The title compound, MS: m/e=330.4 (M+H+), was prepared in accordance with the general method of example 7 from 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 2,4-difluorobenzene boronic acid.

reactant | 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | 2,4-difluorobenzene boronic acid | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
product | 2-Chloro-4-[1-(2,4-difluoro-phenyl)-2-methyl-1H-imidazol-4-ylethynyl]-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=C(C=C(C=C1)F)F)C | C17H10ClF2N3
